US06403587B1
{1(S)-[4(R)-(3-METHYL-BUT-2-ENYL)-5-OXO-TETRAHYDRO-FURAN-2(S)-YL]-2-PHENYL-ETHYL}-CARBAMIC ACID TERT-BUTYL ESTER
To a flame dried round bottom flask under a nitrogen atmosphere was added tetrahydrofuran (40 mL) followed by 1,1,1,3,3,3-hexamethyldisilazane (8 mL, 37.8 mmol). The mixture was cooled to 0° C. and n-butyl lithium (14.5 mL of a 2.5 M solution in hexanes, 36.0 mmol) was added. The mixture was stirred for 15 minutes, then cooled to −78° C. in dry ice/acetone bath. {1(S)-[5-Oxo-tetrahydro-furan-2(S)-yl]-2-phenyl-ethyl}-carbamic acid tert-butyl ester (5 g, 16.4 mmol) (prepared by the method of Fray, J. Org. Chem., (51) 4828 (1986)) dissolved in tetrahydrofuran (50 mL) was added dropwise via syringe and stirring continued for 30 minutes. A solution of 4-bromo-2-methyl-2-butene (2.07 mL, 18.0 mmol) in 40 mL of THF was added dropwise via syringe. Stirring was continued for 3 hours during which time the temperature rose to −60° C. The mixture was quenched by slow addition of saturated, aqueous ammonium chloride (25 mL). Upon warming to room temperature, the solution was diluted with ether (300 mL) and transferred to a separatory funnel. The organic phase was washed with saturated aqueous citric acid (2×100 mL), saturated aqueous sodium bicarbonate (NaHCO3)(2×100 mL), and 100 mL brine. The organic layer was dried over magnesium sulfate (MgSO4) and the solvent removed under reduced pressure. Thin layer chromatography in 1:2 hexane/diethyl ether (Et2O) revealed product with an Rf of 0.8. The resulting crude oil was chromatographed on silica gel (225 g) eluting with 2:1 hexanes/diethyl ether to provide 4.73 g (77%) of the title compound. TLC: 1:2 Hexanes/Et2O Rf: 0.8. 1H NMR (400 MHz, CDCl3): δ7.27 ppm (5H, m), 5.02 (1H, b), 4.52 (1H, d, J=9.3 Hz), 4.42 (1H, t, J=7.1 Hz), 3.98 (1H, dt, J=8.5, 7.8 Hz), 2.93 (2H, m), 2.88 (1H, b), 2.68 (1H, m), 2.41 (1H, m), 2.24 (1H, m), 1.92 (1H, m), 1.65 (3H,s), 1.58 (3H,s), 1.37 (9H, s).

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 37.8 mmol, 8 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | {1(S)-[5-Oxo-tetrahydro-furan-2(S)-yl]-2-phenyl-ethyl}-carbamic acid tert-butyl ester | 16.4 mmol, 5 g | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)[C@H]1OC(CC1)=O)=O | C17H23NO4
reactant | 4-bromo-2-methyl-2-butene | 18.0 mmol, 2.07 mL | BrCC=C(C)C | C5H9Br
solvent | dry ice acetone | C(=O)=O.CC(=O)C
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | {1(S)-[4(R)-(3-METHYL-BUT-2-ENYL)-5-OXO-TETRAHYDRO-FURAN-2(S)-YL]-2-PHENYL-ETHYL}-CARBAMIC ACID TERT-BUTYL ESTER | 4.73 g, 77% | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)[C@H]1OC([C@@H](C1)CC=C(C)C)=O)=O | C22H31NO4
